US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-nitropyrimidine with 4-ethoxyaniline gave N2,N4-bis-(4-ethoxyphenyl)-5-nitro-2,4-pyrimidinediamine. LCMS: ret. time: 35.91 min.; purity: 100%; MS (m/e): 396 (MH+); 1H NMR (CDCl3): δ 10.25 (1H, s), 9.11 (1H, s), 7.44 (2H, d, J=8.6 Hz), 7.37 (2H, d, J=9 Hz), 6.88 (2H, d, J=8.6 Hz), 6.80 (2H, d, J=8.6 Hz), 4.06 (2H, q, J=7.2 Hz), 4.02 (2H, q, J=7.2 Hz), 1.45 (3H, t, J=7.2 Hz), 1.42 (3H, t, J=7.2 Hz).

reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 4-ethoxyaniline | C(C)OC1=CC=C(N)C=C1 | C8H11NO
product | N2,N4-bis-(4-ethoxyphenyl)-5-nitro-2,4-pyrimidinediamine | C(C)OC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC)[N+](=O)[O-] | C20H21N5O4
